US07829584B2
3-cyano-6-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-6-ylmethyl]aminocarbonylmethyl-pyridine 1-oxide
A mixture of 3-cyano-6-chloro-2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-6-ylmethyl]aminocarbonylmethyl-pyridine 1-oxide (29 mg) and 2,2-difluoro-2-pyridin-2-yl-ethylamine (20 mg) (Organic Process Research & Development 8:192-200, 2004), in DMSO (0.5 mL) was heated overnight at 80° C. LC/MS (ESI) indicated the mono-Boc product (M+H+ 580.1) as the major component. To the reaction vial was added DCM (10 mL) and water (3 mL). The mixture was vigorously stirred. After removing the aqueous layer, the organic layer was further washed with water (4×3 mL) to remove DMSO and water soluble components. Rotary evaporation of solvent afforded a syrupy residue that was used without purification. LCAMS (ESI) showed the mono-Boc product (M+H+ 580.1) as the major component and the di-Boc product (M+H+ 680.0) as a minor component.

reactant | 3-cyano-6-chloro-2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-6-ylmethyl]aminocarbonylmethyl-pyridine 1-oxide | 29 mg | C(#N)C=1C(=[N+](C(=CC1)Cl)[O-])CC(=O)NCC1=CC2=C(C(=NO2)NC(=O)OC(C)(C)C)C=C1 | C21H20ClN5O5
reactant | 2,2-difluoro-2-pyridin-2-yl-ethylamine | 20 mg | FC(CN)(C1=NC=CC=C1)F | C7H8F2N2
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
reactant | water | 3 mL | O | H2O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 3-cyano-6-(2,2-difluoro-2-pyridin-2-yl-ethylamino)-2-[3-(tert-butoxycarbonyl)amino-benzo[d]isoxazol-6-ylmethyl]aminocarbonylmethyl-pyridine 1-oxide | C(#N)C=1C(=[N+](C(=CC1)NCC(C1=NC=CC=C1)(F)F)[O-])CC(=O)NCC1=CC2=C(C(=NO2)NC(=O)OC(C)(C)C)C=C1 | C28H27F2N7O5
